US09193741B2
Synthesis of 1-(4-(5-amino-2-(1-(4-fluorophenyl)ethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
To a solution of 2-(1-(4-fluorophenyl)ethyl)-7-(methylsulfonyl)thiazolo[5,4-d]pyrimidin-5-amine (50 mg, 0.14 mmol) and triethylamine (30 μl, 0.21 mmol) in dioxane (1 ml) was added 2-(4-chlorophenoxy)-1-(piperazin-1-yl)ethanone (51 mg, 0.21 mmol). The reaction mixture was heated at 70° C. for 3 hours. After cooling down to room temperature, the volatiles were removed under reduced pressure. The crude residue was purified by chromatography on silica gel (CH2Cl2/MeOH 70:1) furnishing the title compound as a white solid (50 mg, 67%).

reactant | 2-(1-(4-fluorophenyl)ethyl)-7-(methylsulfonyl)thiazolo[5,4-d]pyrimidin-5-amine | 0.14 mmol, 50 mg | FC1=CC=C(C=C1)C(C)C=1SC=2N=C(N=C(C2N1)S(=O)(=O)C)N | C14H13FN4O2S2
reactant | triethylamine | 0.21 mmol, 30 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenoxy)-1-(piperazin-1-yl)ethanone | 0.21 mmol, 51 mg | ClC1=CC=C(OCC(=O)N2CCNCC2)C=C1 | C12H15ClN2O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 1-(4-(5-amino-2-(1-(4-fluorophenyl)ethyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | 50 mg, 67% | NC=1N=C(C2=C(N1)SC(=N2)C(C)C2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C25H24ClFN6O2S
